* Generic Symbols for connectors

.subckt Generic1Pin 1
R1 1 0 1G
.ends Generic1Pin

.subckt Generic2Pin 1 2
R1 1 0 1G
R2 2 0 1G
.ends Generic2Pin

.subckt Generic3Pin 1 2 3
R1 1 0 1G
R2 2 0 1G
R3 3 0 1G
.ends Generic3Pin

.subckt Generic4Pin 1 2 3 4
R1 1 0 1G
R2 2 0 1G
R3 3 0 1G
R4 4 0 1G
.ends Generic4Pin

.subckt Generic4Pin 1 2 3 4
R1 1 0 1G
R2 2 0 1G
R3 3 0 1G
R4 4 0 1G
.ends Generic4Pin

.subckt Generic5Pin 1 2 3 4 5
R1 1 0 1G
R2 2 0 1G
R3 3 0 1G
R4 4 0 1G
R5 5 0 1G
.ends Generic5Pin

.subckt Generic6Pin 1 2 3 4 5 6
R1 1 0 1G
R2 2 0 1G
R3 3 0 1G
R4 4 0 1G
R5 5 0 1G
R6 6 0 1G
.ends Generic6Pin

.subckt Generic7Pin 1 2 3 4 5 6 7
R1 1 0 1G
R2 2 0 1G
R3 3 0 1G
R4 4 0 1G
R5 5 0 1G
R6 6 0 1G
R7 7 0 1G
.ends Generic7Pin

.subckt Generic8Pin 1 2 3 4 5 6 7 8
R1 1 0 1G
R2 2 0 1G
R3 3 0 1G
R4 4 0 1G
R5 5 0 1G
R6 6 0 1G
R7 7 0 1G
R8 8 0 1G
.ends Generic8Pin
